US04567201
A mixture of 1-(4-acetyl-3-hydroxy-2-n-propylphenoxy)-3-(2-chloro-4-cyanophenoxy)propane (1.86 g), ethanol (30 ml) and concentrated sulfuric acid (10 ml) was refluxed for 6 hours and then cooled to room temperature. The crystals were collected by filtration and dissolved in chloroform, the solution was washed with a saturated aqeuous sodium hydrogen carbonate solution and then with dilute hydrochloric acid and dried (sodium sulfate). Then, the chloroform was distilled off, and the residue was recrystallized from ethanol. There was obtained ethyl 4-[3-(4-acetyl-3-hydroxy-2-n-propylphenoxy)propoxy]-3-chlorobenzoate as colorless needles (1.1 g). Melting point 101°-102° C.

reactant | 1-(4-acetyl-3-hydroxy-2-n-propylphenoxy)-3-(2-chloro-4-cyanophenoxy)propane | 1.86 g | C(C)(=O)C1=C(C(=C(OCCCOC2=C(C=C(C=C2)C#N)Cl)C=C1)CCC)O | C21H22ClNO4
reactant | sulfuric acid | 10 ml | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | 30 ml | C(C)O | C2H6O
product | ethyl 4-[3-(4-acetyl-3-hydroxy-2-n-propylphenoxy)propoxy]-3-chlorobenzoate | 1.1 g | C(C)(=O)C1=C(C(=C(OCCCOC2=C(C=C(C(=O)OCC)C=C2)Cl)C=C1)CCC)O | C23H27ClO6
